Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:8]([H:9])[H:10].[H:3][C:6]([C:4]#[C:5][C:11]([H:12])([H:13])[H:14])[H:7],4.102444484619999
[C:1][C:2]([H:3])([H:4])[C:5][O:6][C:7](=[O:8])[H:9]>>[C:1].[C:2]([H:3])([H:4])=[C:5][O:6][C:7](=[O:8])[H:9],1.97770610308
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.31388948109
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[O:11][H:12].[H:9],3.06349723736
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],3.36035943655
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.13056536016
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1],5.535511330479999
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11]>>[C:1].[C:2]([H:3])([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],2.23450052562
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-7.455280993089999
[H:8].[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]#[C:9][H:10]>>[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])=[C:9][H:10],-1.94170701552
[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6][H:7].[H:1][C:2][O:3][C:4](=[C:5])[C:8]([H:9])([H:10])[H:11],8.89280732413
[H:11].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.66085875641
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],0.79310485175
[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-1.87200137008
[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.92290706849
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-4.80252154417
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7],0.8440311740700001
[C:5]([H:6])[O:7][H:8].[H:1][C:2]/[C:3]([H:4])=[C:9](\[H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[O:11][H:12],-2.71602472422
[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.72832542
[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-5.53040409408
[C:1]#[C:2].[O:3]=[O:4]>>[C:1]#[C:2][O:3][O:4],-2.25124159393
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],1.79629159777
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],1.19055924686
[C:7]=[C:8]([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-6.833705994040001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.93706743816
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12],4.85149751016
[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-0.660006069891
[H:1][C:2]=[C:3]1[C:4]([O:5][H:6])=[C:7]1[O:8][H:9]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7][O:8][H:9],2.59770135568
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.62918696695
